US05733913
1-tert-Butyl-3-[7-(3-tert-butylureido)-6-o-tolyl-pyrido[2,3-d]pyrimidin-2-yl]urea
A suspension of 0.5 g of 2,7-diamino-6-o-tolyl-pyrido[2,3-d]pyrimidine, prepared as described above in Example 1, in 10 mL of dimethylformamide is reacted with 0.16 g of 60% sodium hydride and stirred at ambient temperature for 1.5 hours. To the suspension is added 0.49 mL of t-butylisocyanate and the mixture stirred overnight at ambient temperature. The reaction mixture is filtered to remove insoluble salts and the filtrate evaporated under reduced pressure. The residue is diluted with water, the insoluble crude product collected by filtration and dried in vacuo. Crystallization from a hexane:ethyl acetate: dichloromethane mixture (3:2:5 v/v/v) afforded the title compound, mp 209°-212° C. dec.

reactant | 2,7-diamino-6-o-tolyl-pyrido[2,3-d]pyrimidine | 0.5 g | NC=1N=CC2=C(N1)N=C(C(=C2)C2=C(C=CC=C2)C)N | C14H13N5
reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | t-butylisocyanate | 0.49 mL | C(C)(C)(C)N=C=O | C5H9NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-tert-Butyl-3-[7-(3-tert-butylureido)-6-o-tolyl-pyrido[2,3-d]pyrimidin-2-yl]urea | C(C)(C)(C)NC(=O)NC=1N=CC2=C(N1)N=C(C(=C2)C2=C(C=CC=C2)C)NC(=O)NC(C)(C)C | C24H31N7O2
